US08012981B2
1,1-Dimethylethyl 4-{[2-(aminocarbonyl)phenyl]amino}-1-piperidinecarboxylate (D19)
To a solution of 1,1-dimethylethyl 4-[(2-cyanophenyl)amino]-1-piperidinecarboxylate (D17) (355 mg, 1.18 mmol) in EtOH (6 ml) at 40° C. was added 2M NaOH solution (2.6 ml) followed by a mixture of hydrogen peroxide solution (27% w/w, 3.7 ml) in water (2.9 ml) and the reaction stirred for 2 h. Further hydrogen peroxide solution (27% w/w, 3.7 ml) in water (2.9 ml) was added and the reaction stirred at 40° C. for 1.5 h. Another portion of hydrogen peroxide solution (27% w/w, 7.4 ml) in water (5.8 ml) was added and stirring and heating were continued overnight. The reaction mixture was diluted with saturated aqueous NaCl solution (4 ml) and extracted with tBuOH (5 ml). The organic extract was diluted with EtOAc (15 ml), dried (MgSO4) and concentrated. Column chromatography eluting with 0-100% EtOAc/petroleum ether gave the title compound (150 mg). δH (CDCl3, 250 MHz) 7.96 (1H, br d), 7.40 (1H, m), 7.31 (1H, m), 6.71 (1H, d), 6.57 (1H, t), 5.80 (2H, br s), 3.93 (2H, m), 3.53 (1H, m), 3.06 (2H, m), 1.99 (2H, m), 1.50 (2H, m), 1.47 (9H, s). MS (ES): MH+ 320.

reactant | 1,1-dimethylethyl 4-[(2-cyanophenyl)amino]-1-piperidinecarboxylate | 1.18 mmol, 355 mg | C(#N)C1=C(C=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H23N3O2
reactant | NaOH | 2M, 2.6 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 3.7 ml | OO | H2O2
reactant | hydrogen peroxide | 3.7 ml | OO | H2O2
reactant | hydrogen peroxide | 7.4 ml | OO | H2O2
solvent | EtOH | 6 ml | CCO | C2H6O
solvent | water | 2.9 ml | O | H2O
solvent | water | 2.9 ml | O | H2O
solvent | water | 5.8 ml | O | H2O
solvent | NaCl | 4 ml | [Na+].[Cl-]
product | 1,1-Dimethylethyl 4-{[2-(aminocarbonyl)phenyl]amino}-1-piperidinecarboxylate | 150 mg | NC(=O)C1=C(C=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H25N3O3
